US07855166B2
30 g (0.13 mol) of (N-tert-butyl)-2-fluorobenzenesulfonamide, obtained from the reaction of 2-fluorobenzenesulfonyl chloride with N-tert-butylamine in analogy to example A1, are introduced in 300 ml of dry tetrahydrofuran. The solution is cooled to −70° C. and a solution of 18.28 g (0.285 mol) of n-butyllithium (2.5 molar in tetrahydrofuran) is added dropwise. Thereafter the reaction solution is warmed to −30° C. over 30 min, after which it is cooled again to −70° C. Then 36.21 g (0.143 mol) of iodine in 200 ml of dry tetrahydrofuran are added dropwise. Following the addition the reaction solution is warmed slowly to room temperature and stirred for 12 h. Thereafter it is washed with 50% strength aqueous sodium thiosulfate solution and water. The organic phase is dried and evaporated. This gives 40.8 g (88% of theory) of N-(tert-butyl)-2-fluoro-6-iodobenzenesulfonamide.

reactant | 2-fluorobenzenesulfonyl chloride | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | N-tert-butylamine | C(C)(C)(C)N | C4H11N
product | (N-tert-butyl)-2-fluorobenzenesulfonamide | 0.13 mol, 30 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)F | C10H14FNO2S
